US06835731B2
Preparation of Pyridine-2-sulfonic Acid 4-{[(1 H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzylamide:
Using General Procedure E: Reaction of pyridine-2-sulfonic acid 4-({(5,6,7,8-tetrahydro-quinolin-8-yl)-[1-(2-trimethylsilanyl-ethoxymethyl)-1 H-benzoimidazol-2-ylmethyl]-amino}-methyl)-benzylamide (100 mg, 0.15 mmol), and 6N HCl (3.9 mL) for 3 h at 50° C. followed by column chromatography on silica gel (CH2Cl2/MeOH/NH4OH: 94:3:3) gave the title compound (68 mg, 85%) as a white foam.

reactant | pyridine-2-sulfonic acid 4-({(5,6,7,8-tetrahydro-quinolin-8-yl)-[1-(2-trimethylsilanyl-ethoxymethyl)-1 H-benzoimidazol-2-ylmethyl]-amino}-methyl)-benzylamide | 0.15 mmol, 100 mg | N1=CC=CC=2CCCC(C12)N(CC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)CC2=CC=C(CNS(=O)(=O)C1=NC=CC=C1)C=C2 | C36H44N6O3SSi
reactant | HCl | 6N, 3.9 mL | Cl | ClH
product | Pyridine-2-sulfonic Acid 4-{[(1 H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzylamide | 68 mg, 85% | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(CNS(=O)(=O)C1=NC=CC=C1)C=C2 | C30H30N6O2S
